### PR TITLE
chore(Data/Seq/Computation): golf using `grind`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---
- `LiftRel.refl`: ? to 12ms
- `LiftRel.symm`: 10ms to 16ms
- `LiftRel.trans`: 13ms to 23ms
- `LiftRel.imp`: 11ms to 19ms
- `terminates_of_liftRel`: 14ms to 14ms
- `rel_of_liftRel`: 11ms to 15ms
- `liftRel_of_mem`: ? to 22ms
- `liftRel_def`: 20ms to 60ms
- `liftRel_bind`: 40ms to 55ms
- `liftRel_pure_left`: 15ms to 33ms
- `liftRel_think_left`: ? to 40ms
- `liftRel_congr`: ? to 35ms
- `LiftRelAux.ret_left`: 18ms to 18ms

(the question marks mean that `trace.profiler` doesn't output anything, maybe they're below 1ms?)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by SnirBroshi** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/a0706e71004618aaf7167bdd147bc95b85d3fe52?reference=c368140668f5fa16a1bd977448c1f665d48c3df4) for a0706e71004618aaf7167bdd147bc95b85d3fe52 against c368140668f5fa16a1bd977448c1f665d48c3df4 are in. No significant results found. @SnirBroshi

- ✅ `build//instructions`: **-224.4G** (**-0.14%**)

**Small changes (1✅)**

1 hidden

**Comment by grunweg** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/a0706e71004618aaf7167bdd147bc95b85d3fe52?reference=c368140668f5fa16a1bd977448c1f665d48c3df4) for a0706e71004618aaf7167bdd147bc95b85d3fe52 against c368140668f5fa16a1bd977448c1f665d48c3df4 are in. (These commits have already been benchmarked in a previous command.) No significant results found. @grunweg

- ✅ `build//instructions`: **-224.4G** (**-0.14%**)

**Small changes (1✅)**

1 hidden

File: Mathlib/Data/Seq/Computation.lean [hunk 1]
```diff
@@ -880,65 +880,35 @@ theorem lift_eq_iff_equiv (c₁ c₂ : Computation α) : LiftRel (· = ·) c₁
...
-  ⟨fun {_a} a1 =>
-    let ⟨_b, b2, ab⟩ := l1 a1
-    let ⟨c, c3, bc⟩ := l2 b2
-    ⟨c, c3, trans_of R ab bc⟩,
-    fun {_c} c3 =>
-    let ⟨_b, b2, bc⟩ := r2 c3
-    let ⟨a, a1, ab⟩ := r1 b2
-    ⟨a, a1, trans_of R ab bc⟩⟩⟩
+instance LiftRel.refl (R : α → α → Prop) [Std.Refl R] : Std.Refl (LiftRel R) := by
+  grind [refl_def, LiftRel]
```
Comment (themathqueen) [inline Mathlib/Data/Seq/Computation.lean:884]: I would probably revert this since it's still one-line and the performance is 10x worse?

File: Mathlib/Data/Seq/Computation.lean [hunk 2]
```diff
@@ -996,10 +943,8 @@ theorem liftRel_pure (R : α → β → Prop) (a : α) (b : β) :
 
 @[simp]
 theorem liftRel_think_left (R : α → β → Prop) (ca : Computation α) (cb : Computation β) :
-    LiftRel R (think ca) cb ↔ LiftRel R ca cb :=
-  and_congr (forall_congr' fun _ => imp_congr ⟨of_think_mem, think_mem⟩ Iff.rfl)
-    (forall_congr' fun _ =>
-      imp_congr Iff.rfl <| exists_congr fun _ => and_congr ⟨of_think_mem, think_mem⟩ Iff.rfl)
+    LiftRel R (think ca) cb ↔ LiftRel R ca cb := by
+  grind [LiftRel, of_think_mem, think_mem]
```
Comment (themathqueen) [inline Mathlib/Data/Seq/Computation.lean:947]: Also this, this is 40x slower?

File: Mathlib/Data/Seq/Computation.lean [hunk 3]
```diff
@@ -1011,10 +956,8 @@ theorem liftRel_mem_cases {R : α → β → Prop} {ca cb} (Ha : ∀ a ∈ ca, L
   ⟨fun {_} ma => (Ha _ ma).left ma, fun {_} mb => (Hb _ mb).right mb⟩
 
 theorem liftRel_congr {R : α → β → Prop} {ca ca' : Computation α} {cb cb' : Computation β}
-    (ha : ca ~ ca') (hb : cb ~ cb') : LiftRel R ca cb ↔ LiftRel R ca' cb' :=
-  and_congr
-    (forall_congr' fun _ => imp_congr (ha _) <| exists_congr fun _ => and_congr (hb _) Iff.rfl)
-    (forall_congr' fun _ => imp_congr (hb _) <| exists_congr fun _ => and_congr (ha _) Iff.rfl)
+    (ha : ca ~ ca') (hb : cb ~ cb') : LiftRel R ca cb ↔ LiftRel R ca' cb' := by
+  grind [Equiv, LiftRel]
```
Comment (themathqueen) [inline Mathlib/Data/Seq/Computation.lean:960]: and this is 30x slower

File: Mathlib/Data/Seq/Computation.lean [hunk 4]
```diff
@@ -880,65 +880,35 @@ theorem lift_eq_iff_equiv (c₁ c₂ : Computation α) : LiftRel (· = ·) c₁
...
-    rw [mem_unique mb mb']; exact ab'
+    LiftRel R ca cb → ∀ {a b}, a ∈ ca → b ∈ cb → R a b := by
+  grind [LiftRel, mem_unique]
 
 theorem liftRel_of_mem {R : α → β → Prop} {a b ca cb} (ma : a ∈ ca) (mb : b ∈ cb) (ab : R a b) :
-    LiftRel R ca cb :=
-  ⟨fun {a'} ma' => by rw [mem_unique ma' ma]; exact ⟨b, mb, ab⟩, fun {b'} mb' => by
-    rw [mem_unique mb' mb]; exact ⟨a, ma, ab⟩⟩
+    LiftRel R ca cb := by
+  grind [LiftRel, mem_unique]
```
Comment (themathqueen) [inline Mathlib/Data/Seq/Computation.lean:911]: this too maybe

**Review by themathqueen — COMMENTED** [review]
It's cool that grind works for these, but I don't think we should just be using grind for anything and everything. It might not make a difference now because these are tiny differences, but I feel like if we keep making things 10x slower, it'll eventually add up

**Comment by SnirBroshi** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/46b02777a3b3f81d9eae5a8ef235b89c3ed3f0fd?reference=8018f6ac06b3ea23aa6f142703ab17a71e57dbe8) for 46b02777a3b3f81d9eae5a8ef235b89c3ed3f0fd against 8018f6ac06b3ea23aa6f142703ab17a71e57dbe8 are in. No significant results found. @SnirBroshi

- 🟥 `build//instructions`: **+50.0G** (**+0.04%**)

No significant changes detected.

**Comment by SnirBroshi** [comment]
I'm not sure how we got from `-224.4G (-0.14%)` to `+50.0G (+0.04%)`, perhaps just noise, especially since it always says "no significant results".
I think this demonstrates that there's no slowdown.
-awaiting-author

File: Mathlib/Data/Seq/Computation.lean (hunk 1 above)
Comment (joneugster) [reply Mathlib/Data/Seq/Computation.lean]: Let's follow @themathqueen 's suggestion here and revert `LiftRel.refl`. I'm a bit uneasy to define an `instance` with `by ...`, even if in this case I think that's fine: all fields of the class `Std.Refl` are of type `Prop`.

Still, the existing one-liner seems bette IMO

File: Mathlib/Data/Seq/Computation.lean (hunk 2 above)
Comment (joneugster) [reply Mathlib/Data/Seq/Computation.lean:945]: I think that's fine: The existing proof isn't really pretty and as long as the slowdown isn't too bad, I think it's desirable to replace "ugly"/"technical" proofs with `grind` as it increases maintainability and opens to option to gain from `grind` improvements down the road.

File: Mathlib/Data/Seq/Computation.lean (hunk 3 above)
Comment (joneugster) [reply Mathlib/Data/Seq/Computation.lean:958]: same as above, I think this is fine to keep in the PR.

File: Mathlib/Data/Seq/Computation.lean [hunk 5]
```diff
@@ -878,65 +878,35 @@ theorem lift_eq_iff_equiv (c₁ c₂ : Computation α) : LiftRel (· = ·) c₁
...
-    let ⟨a, a1, ab⟩ := r1 b2
-    ⟨a, a1, trans_of R ab bc⟩⟩⟩
+instance LiftRel.refl (R : α → α → Prop) [Std.Refl R] : Std.Refl (LiftRel R) := by
+  grind [refl_def, LiftRel]
+
+instance LiftRel.symm (R : α → α → Prop) [Std.Symm R] : Std.Symm (LiftRel R) := by
+  grind [symm_def, LiftRel]
+
+instance LiftRel.trans (R : α → α → Prop) [IsTrans α R] : IsTrans _ (LiftRel R) := by
+  grind [isTrans_def, LiftRel]
```
Comment (joneugster) [inline Mathlib/Data/Seq/Computation.lean]:
```suggestion
instance LiftRel.refl (R : α → α → Prop) [Std.Refl R] : Std.Refl (LiftRel R) where
  refl _ := by grind [refl_def, LiftRel]

instance LiftRel.symm (R : α → α → Prop) [Std.Symm R] : Std.Symm (LiftRel R) where
  symm := by grind [symm_def, LiftRel]

instance LiftRel.trans (R : α → α → Prop) [IsTrans α R] : IsTrans _ (LiftRel R) where
  trans := by grind [isTrans_def, LiftRel]
```

could we do this instead? I'm a bit uneasy to define an `instance` with `by ...`, even if in this case I think that's fine: all fields of e.g. the class `Std.Refl` are of type `Prop`.

**Review by joneugster — COMMENTED** [review]
Thanks for the PR!

To me, `+50G` is generally acceptable if the maintainability of the increases, which it does here, and I've seen noise in that order of magnitude.

It would still be interesting to understand why you lost the `-200G` you had before, but that's not required.

File: Mathlib/Data/Seq/Computation.lean (hunk 5 above)
Comment (SnirBroshi) [reply Mathlib/Data/Seq/Computation.lean]: The classes themselves are in `Prop`, so there's proof irrelevance

**Comment by SnirBroshi** [comment]
> It would still be interesting to understand why you lost the `-200G` you had before, but that's not required.

I think both of them are noise, just to opposite directions. They don't even mention the file in question, just the global instruction count.

File: Mathlib/Data/Seq/Computation.lean (hunk 5 above)
Comment (joneugster) [reply Mathlib/Data/Seq/Computation.lean]: Both reviews mention some dissatisfaction with the suggested changes to `LiftRel.refl` so let's address that. If you simply want to revert that part in this PR, that would be perfectly fine.

**Comment by joneugster** [comment]
Thanks! I'll do another

!radar

just for good measure and suggest

maintainer merge

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/9d65b3cc6c1fb66393afa93fed7fdc6eec51d945?reference=745cacfe347befe927134c0be072569ddbf65c97) for 9d65b3cc6c1fb66393afa93fed7fdc6eec51d945 against 745cacfe347befe927134c0be072569ddbf65c97 are in. No significant results found. @joneugster

- ✅ `build//instructions`: **-20.0G** (**-0.01%**)

No significant changes detected.
